Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / Magnesium
 
Attending: ___.
 
Chief Complaint:
Abd Pain, Back Pain 
 
Major Surgical or Invasive Procedure:
1. laparoscopic cholecystectomy 

 
History of Present Illness:
___ hx CAD s/p CABG, DM, HTN, referred for concern of 
cholecystitis.

History taken from ___ documentation and patient. She reports 
that she developed acute epigastric pain yesterday morning 
without apparent trigger. She had never had this pain before. It 
was an aching pain that ranged from between 5 to 8 out of ten. 
She had accompanying malaise, for which she called her PCP and 
presented to her office. The pain radiated to her upper back. 
There were no other associated symptoms; nothing made it better 
or worse. Per ___ documentation, she went to her PCP's office 
where labs were drawn and she had a KUB done; she was sent home 
on famotidine. At home, she was called that her labs were 
abnormal and was referred to the ___ ___. She denies fevers or 
chills. Per ___ dashboard, WBC was 19K earlier today, with lipase 
greater than 3000.

In the ___, initial VS were: 99.1 78 171/42 18 99% RA.
   
___ physical exam was recorded as: none recorded.

___ labs were notable for: WBC 11.9. H/H ___ with MCV 115. 
Normal Chem7 except Glucose 277. AST 161, ALT 270, AP 370, TBili 
1.6. Lipase 1607. UA with Sm leuks, 18 WBC, few Bacteria; 150 
Glucose and 30 protein.

Imaging showed:
RUQ U/S: Evaluation of the gallbladder is limited due to 
shadowing stones in the fundus. Gallbladder wall edema is 
nonspecific and may reflect cholecystitis. If continued clinical 
concern, a HIDA can be obtained for further evaluation

EKG showed: Sinus bradycardia with ectopic beats. Low voltage, 
no ischemic change. 

Patient was given:
___ 01:06 IV Ampicillin-Sulbactam 3 g 
___ 01:06 IV Morphine Sulfate 2 mg 
___ 01:06 IVF 1000 mL NS 

ERCP and Surgery were paged from the ___, no recommendations 
left. 

Transfer VS were: 98.0 54 123/82 16 95% RA. 

When seen on the floor, patient is comfortable, engaged. She 
endorses mild upper abdominal pain. She denies HA, vision 
change, cough, congestion, chest pain, shortness of breath, 
palpitations, nausea, vomiting, diarrhea, constipation, urinary 
frequency or pain with urination, pains of the muscle or joints, 
new rashes or lesions, joint swelling, change in weight, 
appetite or mood.

REVIEW OF SYSTEMS: 
A ten point ROS was conducted and was negative except as above 
in the HPI.
 
Past Medical History:
CAD s/p CABG ___. Grafts: Left internal
mammary artery to the left anterior descending; saphenous vein
graft to the marginal branch of the posterior descending artery.
DM (diabetes mellitus), type 2
hypertension-essential
hypercholesterolinemia
osteoporosis, unspecific
thrombocytosis, unspec
leukocytosis
myeloproliferative disease
Obesity
Chronic kidney disease, stage III (moderate)
Vitamin D deficiency
Proximal phalanx fracture, RSF
Falls

 
Social History:
___
Family History:
Born an orphan, cannot provide family history. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.3 150 / 60 79 18 97 RA 
Gen: Pleasant elder female sitting at edge of bed, engaged, 
comfortable, NAD 
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP, MMM
CV: RRR, no r/g/m
Chest: CTAB, no w/r/r
GI: Epigastric and RUQ pain with moderate palpation. Abd soft, 
obese, +BS. 
MSK: No kyphosis. No synovitis.
Skin: No rash. No jaundice.
Neuro: AAOx3. R nasolabial flattening at rest and with 
activation (patient says this is chronic for her). CN otherwise 
intact. ___ strength all extremities. 
Psych: Full range of affect

DISCHARGE PHYSICAL EXAM: ___
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, appropriately tender at incisions, no 
rebound or guarding, normoactive bowel sounds, no palpable 
masses. Port site dressings c/d/i. 
DRE: normal tone, no gross or occult blood  
Ext: No ___ edema, ___ warm and well perfused  

 
Pertinent Results:
___: ECHO:

The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 59 %). The estimated cardiac index is normal (>=2.5L/min/m2). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is a very small circumferential pericardial effusion 
without echo signs of tamponade physiology. . 

 IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Moderate 
mitral regurgitation. Mild pulmonary artery systolic 
hypertension. Moderate tricuspid regurgitation. Increased PCWP. 

 Compared with the prior study (images reviewed) of ___, 
the severity of mitral regurgitation and tricuspid regurgitation 
have now increased. The estimated PA systolic pressure is now 
slightly higher. 

 CLINICAL IMPLICATIONS: 
 The patient has moderate mitral regurgitation. Based on ___ 
ACC/AHA Valvular Heart Disease Guidelines, a follow-up 
echocardiogram is suggested in ___ years.  
RUQ U/S: Evaluation of the gallbladder is limited due to 
shadowing stones in the fundus. Gallbladder wall edema is 
nonspecific and may reflect cholecystitis. If continued clinical 
concern, a HIDA can be obtained for further evaluation

MRCP ___: 1. Mildly distended gallbladder containing a 3.6 x 2.3 
cm stone, demonstrating circumferential wall edema, however the 
edema may be due to third spacing or gallbladder inflammation.  
If definitive evaluation of cystic duct patency is required, 
hepatobiliary scintigraphy may be considered.
2. No evidence choledocholithiasis.  No intra or extrahepatic 
biliary
dilation.
3. Renal cysts.
4. 1.7 cm left adrenal adenoma.
5. Mild interstitial edema at the lung bases.

___ 01:20PM BLOOD WBC-10.6* RBC-2.52* Hgb-9.4* Hct-29.0* 
MCV-115* MCH-37.3* MCHC-32.4 RDW-17.1* RDWSD-71.2* Plt ___
___ 07:20AM BLOOD WBC-12.6* RBC-2.34* Hgb-8.6* Hct-27.1* 
MCV-116* MCH-36.8* MCHC-31.7* RDW-17.2* RDWSD-72.1* Plt ___
___ 01:04AM BLOOD WBC-11.9* RBC-2.40* Hgb-9.0* Hct-27.7* 
MCV-115*# MCH-37.5*# MCHC-32.5 RDW-17.2* RDWSD-72.0* Plt ___
___ 07:20AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-2+ Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ 
Target-OCCASIONAL Burr-1+ Pappenh-OCCASIONAL Fragmen-OCCASIONAL
___ 01:20PM BLOOD Plt ___
___ 06:35AM BLOOD ___ PTT-31.2 ___
___ 01:20PM BLOOD Glucose-310* UreaN-26* Creat-1.3* Na-134 
K-5.2* Cl-95* HCO3-29 AnGap-15
___ 07:40AM BLOOD Glucose-188* UreaN-34* Creat-1.5* Na-133 
K-4.4 Cl-95* HCO3-26 AnGap-16
___ 07:20AM BLOOD Glucose-165* UreaN-30* Creat-1.4* Na-135 
K-4.5 Cl-95* HCO3-24 AnGap-21*
___ 06:35AM BLOOD Glucose-112* UreaN-18 Creat-1.2* Na-136 
K-4.1 Cl-97 HCO3-26 AnGap-17
___ 07:58AM BLOOD Glucose-159* UreaN-16 Creat-1.0 Na-137 
K-3.3 Cl-101 HCO3-25 AnGap-14
___ 06:35AM BLOOD ALT-102* AST-25 AlkPhos-250* TotBili-1.3
___ 07:58AM BLOOD ALT-144* AST-42* AlkPhos-284* TotBili-1.2
___ 06:45AM BLOOD ALT-193* AST-82* AlkPhos-290* TotBili-1.0 
DirBili-0.5* IndBili-0.5
___ 06:35AM BLOOD Lipase-108*
___ 06:45AM BLOOD proBNP-4070*
___ 01:20PM BLOOD Calcium-9.1 Phos-3.0 Mg-1.9
___ 09:03PM BLOOD Lactate-1.2
 
Brief Hospital Course:
The patient presented with complaint of abdominal and back pain. 
She was admitted with concern for cholecystitis and 
pancreatitis. RUQ ultrasound showed cholelithiasis with some 
gallbladder edema concerning for possible cholecystitis. Her 
labs were consistent with recent choledocholithiasis and 
subsequent gallstone pancreatitis, though MRCP on ___ did not 
show any gallstones present in the common bile duct at the time 
of study. Given the negative MRCP, ERCP was not performed. The 
patient was initially treated for pancreatitis by the GI 
medicine service with bowel rest, IV fluid hydration, and pain 
control. On ___, the patient developed new onset dyspnea with 
concern for decompensated heart failure and underwent TTE, which 
showed moderate mitral regurgitation but preserved EF of 59%. 
She was adequately diuresed and her dyspnea resolved. As the 
patient's abdominal exam and labs improved over several days, 
she was taken to the operating room on ___ for laparoscopic 
cholecystectomy with the acute care general surgery service. 

This procedure went well without complication (reader referred 
to the Operative Note for details). After a brief, uneventful 
stay in the PACU, the patient arrived on the floor tolerating 
clear liquids.  The patient was hemodynamically stable without 
recurrent dyspnea or edema. Her pain was well controlled. 
However, she was initially unable to void after her foley was 
removed despite receiving a fluid bolus, so a foley was 
replaced. The next day, she received a single dose of flomax and 
the foley was removed the following evening, after which she 
voided appopriately without difficulty. Diet was progressively 
advanced as tolerated to a regular diet with good tolerability.  
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services on 
POD**. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

++++++++++++++++++++++++++++

Of note, patient noted to have an increase in her creatinine on 
___ since admission.  Her creatinine was repeated on the day of 
discharge and was noted to be decreased to 1.3 with a bun 26, 
she was incidently noted to have a mild elevation in her 
potassium to 5.2.  An EKG was done which did not show any ST 
elevation. The patient did receive 5 units regular insulin for 
elevated blood sugar 317. The patient has been on spironolactone 
25 mg daily.  Please repeat potassium in the am, ___, may 
consider discussion with PCP regarding changes in 
spirolonactone.  She will also need further evaluation for new 
CHF. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. glimepiride 2 mg oral TID W/MEALS 
3. Hydroxyurea 500 mg PO 6X/WEEK (___) 
4. Vitamin D ___ UNIT PO BID 
5. Atorvastatin 80 mg PO QPM 
6. Spironolactone 25 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
8. Multivitamins 1 TAB PO DAILY 
9. Famotidine 20 mg PO DAILY 
10. Metoprolol Succinate XL 75 mg PO DAILY 
11. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using UNK Insulin

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
Take for constipation caused by pain medication. Hold for loose 
stools.  
3.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
hold for increased sedation, resp. rate <8 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*6 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
Take for constipation caused by pain medication. Hold for loose 
stools.  
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Famotidine 20 mg PO DAILY  
9.  glimepiride 2 mg oral TID W/MEALS  
10.  Hydroxyurea 500 mg PO 6X/WEEK (___)  
11.  Metoprolol Succinate XL 75 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
14.  Spironolactone 25 mg PO DAILY  
15.  Vitamin D ___ UNIT PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
gallstone pancreatitis 

Secondary:  

Congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with gallstone pancreatitis 
and were treated by the GI medicine team until your symptoms 
resolved. You then underwent laparoscopic cholecystectomy 
(removal of your gallbladder) by the Acute Care Surgery team. 
You tolerated the procedure well and are now being discharged 
home to continue your recovery. You also developed new 
congestive heart failure and should follow up with your primary 
care doctor to manage this.  Please note the following discharge 
instructions:
 
Please follow up in the Acute Care Surgery clinic at the 
appointment listed below.
 
ACTIVITY:
 
o Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
o You may climb stairs. 
o  You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
o  Don't lift more than ___ lbs for 4 weeks. (This is about 
the weight of a briefcase or a bag of groceries.) This applies 
to lifting children, but they may sit on your lap.
o You may start some light exercise when you feel comfortable.
o You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
 
HOW YOU MAY FEEL: 
o  You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.
o  You may have a sore throat because of a tube that was in your 
throat during surgery.
o  You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
o  You could have a poor appetite for a while. Food may seem 
unappealing.
o  All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
o Tomorrow you may shower and remove the gauzes over your 
incisions. Under these dressing you have small plastic bandages 
called steri-strips. Do not remove steri-strips for 2 weeks. 
(These are the thin paper strips that might be on your 
incision.) But if they fall off before that that's okay).
o Your incisions may be slightly red around the stitches. This 
is normal.
o You may gently wash away dried material around your incision.
o Avoid direct sun exposure to the incision area.
o Do not use any ointments on the incision unless you were told 
otherwise.
o You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
o You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
 
YOUR BOWELS:
o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 
 
PAIN MANAGEMENT:
o It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.
o Your pain medicine will work better if you take it before your 
pain gets too severe.
o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
o Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.

Please recheck potassium on ___, monitor blood sugar
 
Followup Instructions:
___